US04640916
To a suspension of 0.46 g of lithium aluminum hydride in 50 ml of ether was added dropwise, with ice-cooling, a solution of 1.6 g of 2-(3-ethoxycarbonylpropyl)-2H-1,4-benzothiazin-3(4H)-one in ether (30 ml). After the mixture was stirred for one hour, water was added dropwise thereto. The resultant white precipitates were filtered off, and the filtrate was dried (MgSO4). The solvent was evaporated off, and the residue was subjected to a column chromatography on silica-gel (70 g). From the eluate with hexane-ethyl acetate (1:1, v/v) was obtained 0.75 g (55.6%) of 2-(4-hydroxybutyl)-2H-1,4-benzothiazin-3(4H)-one. Recrystallization from ethyl acetate gave prisms, m.p. 101°-102° C.

reactant | lithium aluminum hydride | 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(3-ethoxycarbonylpropyl)-2H-1,4-benzothiazin-3(4H)-one | 1.6 g | C(C)OC(=O)CCCC1SC2=C(NC1=O)C=CC=C2 | C14H17NO3S
reactant | water | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-(4-hydroxybutyl)-2H-1,4-benzothiazin-3(4H)-one | 0.75 g, 55.6% | OCCCCC1SC2=C(NC1=O)C=CC=C2 | C12H15NO2S
